Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
AV fistula eval 
 
Major Surgical or Invasive Procedure:
Hemodialysis 

 
History of Present Illness:
___ y.o woman with DM, ESRD here for eval of AV fistula from 
___ clinic due to scab on fistula. Currently not safe to 
access for dialysis, last dialysis ___.  
.  
Pt from ___ (dialysis) in ___. Has had scab developing 
over cath site for 3 weeks. Was sick on ___, missed dialysis 
(misses at least once a week), went today, gave pt her heparin, 
attached pt to dialysis machine and then decided that the scab 
warranted further eval. Pt did not receive dialysis.  
.  
In the ED, initial VS were: 97.9 72 203/66 18 94. Labs sig for 
BUN/Cr 48/11.4, WBC 6.8 82%N. Transplant surgery was consulted 
and fistula cleared for use by Dr ___. No studies performed. 
Pt admitted for nonurgent dialysis.  
Vitals on transfer were 97.7, 173/77, 66, 18, 98% RA.  
.  
On the floor, pt feeling well, has no complaints. Does report 
recent cold with cough, white sputum, no fevers.  

 
Past Medical History:
IDDM2 (dx ___ yrs ago), mult admissions for uncontrolled DM  
ESRD on hemodialysis (M, W, F)  
HTN  
Hypercholestolemia  
PSH:  
Jump graft revision with thrombectomy of right  
upper extremity AV graft ___  

 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
Vitals: 96.2, 174/80, 67, 22, 92% RA  
General: Alert, oriented, no acute distress, eating, 
intermittent cough  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Left lower lobe crackles  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, fistula on right with old appearing scab, no oozing.  
Neuro: A+ox 3, answers question and follows directions 
appropriately  
 
Pertinent Results:
On admission:
___ 08:30PM BLOOD WBC-6.8 RBC-5.31 Hgb-12.4 Hct-43.8 MCV-83 
MCH-23.4* MCHC-28.4* RDW-19.7* Plt ___
___ 08:30PM BLOOD Plt ___
___ 08:30PM BLOOD Glucose-110* UreaN-48* Creat-11.2*# 
Na-142 K-5.0 Cl-99 HCO3-28 AnGap-20
.
On discharge:
___ 07:00AM BLOOD WBC-7.0 RBC-4.95 Hgb-11.6* Hct-40.4 
MCV-82 MCH-23.4* MCHC-28.7* RDW-19.3* Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-102* UreaN-52* Creat-11.9* Na-142 
K-5.5* Cl-102 HCO3-25 AnGap-21
___ 07:00AM BLOOD Calcium-8.2* Phos-5.3*# Mg-2.3
 
Brief Hospital Course:
Ms. ___ is a pleasant ___ yo F with DM, ESRD, who was sent to 
the ___ ED after missing several sessions of HD due to 
noncompliance and requiring fistula eval. She was admitted on 
___, and discharged on ___. Her brief hospital course 
was notable for:  
.  
# ESRD: Pt had not received HD since ___ (4 days) and was not 
be able to receive as outpt until ___ given long ___ 
___. At the time of admission, there was no urgent 
indication for HD, but she needed to be dialysed as inpt. At the 
time of presentation there was concern about the status of her 
AV fistula, as it appeared to have some scarring over it, and 
there was uncertainty regarding whether or not it could be used. 
The fistula was evaluated by transplant surgery who felt that it 
was safe for use. She underwent hemodialysis as an inpatient 
which was tolerated well. The Pt was discharged to continue her 
regular HD schedule. No changes were made to her outpatient 
medication regimen.
.
# Dislocated foot: Pt was noted to have a foot that appeared 
dislocated, which she reports was not painful and had been that 
way for many years. Since this was not considered an acute 
issue, she was given information about the outpatient ___ 
clinic and encouraged to follow-up with them for evaluation
.
All other chronic medical issues for this patient were stable 
during this hospitlization. She was discharged to home in good 
condition, in a wheelchair, with stable vital signs, s/p 
hemodialysis.

 
Medications on Admission:
ASA 81  
Ca Carb 1 tab TID with meals  
Clonidine 0.2mg ___  
Colace 200mg qd  
Folic acid 1mg daily  
NPH 20U qAM  
Meotprolol 50mg BID  
Amlodipine 10mg daily  
Famotidine 20mg daily  
Pravachol 20mg daily  
Renagel 1600mg with meals  
Vit B complex daily  

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: Two (2) 
Tablet, Chewable PO TID W/MEALS (3 TIMES A DAY WITH MEALS).  
3. Docusate Sodium 100 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
6. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

7. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q24H (every 24 
hours).  
8. Pravastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. B Complex Vitamins     Capsule Sig: One (1) Cap PO DAILY 
(Daily).  
10. Clonidine 0.2 mg/24 hr Patch Weekly Sig: One (1) Patch 
Weekly Transdermal QWED (every ___.  
11. Sevelamer Carbonate 800 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
12. Humulin N 100 unit/mL Suspension Sig: Twenty (20) units 
Subcutaneous qAM.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: AV fistula evaluation, need for hemodialysis
Secondary: Diabetes Mellitus, end stage renal disease, 
hypertension, hypercholesterolemia

 
Discharge Condition:
AOX3, wheelchair bound, alert, no acute distress, 
hemodynamically stable vital signs, afebrile

 
Discharge Instructions:
You were admitted to the ___ on 
___ after you were sent for evaluation of your AV fistula 
from your ___ clinic. Your AV fistula was evaluated and was 
determined to be safe to use. You received hemodialysis today 
and tolerated it well. You are now being discharged to home in 
good condition on ___. It was a pleasure participating in 
your medical care.
.
We are not making any changes to your outpatient medication 
regimen. Please continue to take all outpatient medications as 
you had been prior to this admission.
 
Followup Instructions:
___